US05189181
A mixture of glyoxylic acid 50% w/v (3.05 parts), water (20 parts) and methanol (10 parts) was stirred at ambient temperature. 2-ethylaniline (5.0 parts) was added and the mixture was stirred under reflux for 2 hours. After cooling to ambient temperature, the product was isolated by filtration, washed with a little water (50 parts) and dried to yield di(4-amino-3-ethylphenyl)acetic acid (5.5 parts).

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | water | O | H2O
reactant | 2-ethylaniline | C(C)C1=C(N)C=CC=C1 | C8H11N
solvent | methanol | CO | CH4O
product | di(4-amino-3-ethylphenyl)acetic acid | NC1=C(C=C(C=C1)C(C(=O)O)C1=CC(=C(C=C1)N)CC)CC | C18H22N2O2
